US08084611B2
(2R,4S)-(2-Ethyl-6-trifluoromethyl-1,2,3,4-tetrahydro-quinolin-4-yl)-carbamic acid naphthalen-1-ylmethyl ester
In a flask equipped with a Soxhlet extractor containing 4 Å molecular sieves (pellets), (R)-binaphthol (716 mg) dissolved in dichloromethane (35 ml) was added. To the solution, was added trimethoxyborane (279 μl) and the mixture was heated to reflux under nitrogen atmosphere for 2 hours. The solution was concentrated under nitrogen atmosphere, and the resulting residue was dissolved in dichloromethane to give a dichloromethane solution of a chiral boron catalyst (8.0 ml). Vinyl-carbamic acid naphthalen-1-ylmethyl ester (227 mg) was dissolved in a mixture of toluene (2.5 ml) and dichloromethane (1.5 ml) and a 0.4M propylidene-(4-trifluoromethyl-phenyl)-amine/dichloromethane solution (2.75 ml) was added. Thereto was added the dichloromethane solution of a chiral boron catalyst prepared above (1.6 ml) dropwise under nitrogen atmosphere at 0° C. over 30 minutes. The mixture was stirred at the same temperature for 2 hours, then allowed to warm to room temperature, and the stirring was continued overnight. To the reaction mixture, was added a 0.5N NaOH aq. solution and extracted with ether. The organic layer was washed with a saturated brine twice, dried over magnesium sulfate and concentrated in vacuo. The resulting residue was purified by column chromatography (silica gel; hexane:ethyl acetate=19:1→7:3) to give the titled compound (331 mg). MS (m/z): 429 [M+H]+. Enantioselectivity was 96% ee determined by HPLC using CHIRALPAK IB (DAICEL CHEMICAL INDUSTRIES, LTD.), hexane:ethanol=9:1, flow rate=5 ml/min.

reactant | (R)-binaphthol | 716 mg | C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | C20H14O2
reactant | trimethoxyborane | 279 μl | COB(OC)OC | C3H9BO3
reactant | Vinyl-carbamic acid naphthalen-1-ylmethyl ester | 227 mg | C1(=CC=CC2=CC=CC=C12)COC(NC=C)=O | C14H13NO2
reactant | propylidene-(4-trifluoromethyl-phenyl)-amine dichloromethane | 0.4M, 2.75 ml | C(CC)=NC1=CC=C(C=C1)C(F)(F)F.ClCCl
reactant | NaOH | 0.5N | [OH-].[Na+]
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
catalyst | boron | [B] | B
product | (2R,4S)-(2-Ethyl-6-trifluoromethyl-1,2,3,4-tetrahydro-quinolin-4-yl)-carbamic acid naphthalen-1-ylmethyl ester | 331 mg | C1(=CC=CC2=CC=CC=C12)COC(N[C@H]1C[C@H](NC2=CC=C(C=C12)C(F)(F)F)CC)=O | C24H23F3N2O2
